US08071609B2
A) 1-(3-Iodo-4-methylphenyl)-3-(3-(trifluoromethyl)phenyl)urea
A mixture of 3-iodo-4-methylaniline (1.17 g, 5 mmol) and 3-(trifluoromethyl)-phenylisocyanate (1.03 g, 5.5 mmol) was stirred at rt for 4 h. Filtration (ethyl acetate wash) yielded the desired product.

reactant | 3-iodo-4-methylaniline | 5 mmol, 1.17 g | IC=1C=C(N)C=CC1C | C7H8IN
reactant | 3-(trifluoromethyl)-phenylisocyanate | 5.5 mmol, 1.03 g | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
product | 1-(3-Iodo-4-methylphenyl)-3-(3-(trifluoromethyl)phenyl)urea | IC=1C=C(C=CC1C)NC(=O)NC1=CC(=CC=C1)C(F)(F)F | C15H12F3IN2O
